US09388173B2
A solution of 5-(1-methyl-1H-benzo[d]imidazol-6-yl)-1H-pyrazol-3-amine and 5-(1-methyl-1H-benzo[d]imidazol-5-yl)-1H-pyrazol-3-amine (60 mg, 0.27 mmol), 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline (54 mg, 0.27 mmol) and DIPEA (72 mg, 0.54 mmol) in EtOH (5 mL) was stirred overnight at 120° C. The mixture was concentrated and then purified by prep-HPLC and prep-TLC to give the desired 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((5-(1-methyl-1H-benzo[d]imidazol-6-yl)-1H-pyrazol-3-yl)amino)propan-2-ol (4.5 mg, Yield 4.1%) 1H NMR (400 MHz, MeOD) 8.21-8.16 (m, 1H), 7.86 (s, 1H), 7.71-7.64 (m, 2H), 7.20-7.06 (m, 4H), 5.96 (s, 1H), 4.50-4.39 (m, 1H), 4.29-4.00 (m, 4H), 3.97-3.89 (m, 3H), 3.30-3.11 (m, 2H), 3.08-2.92 (m, 4H). LCMS: RT=0.788 min, M+H+=403.2.

reactant | 5-(1-methyl-1H-benzo[d]imidazol-6-yl)-1H-pyrazol-3-amine | CN1C=NC2=C1C=C(C=C2)C2=CC(=NN2)N | C11H11N5
reactant | 5-(1-methyl-1H-benzo[d]imidazol-5-yl)-1H-pyrazol-3-amine | 0.27 mmol, 60 mg | CN1C=NC2=C1C=CC(=C2)C2=CC(=NN2)N | C11H11N5
reactant | 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline | 0.27 mmol, 54 mg | O1C(C1)CN1CC2=CC=CC=C2CC1 | C12H15NO
reactant | DIPEA | 0.54 mmol, 72 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 5 mL | CCO | C2H6O
product | 1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-((5-(1-methyl-1H-benzo[d]imidazol-6-yl)-1H-pyrazol-3-yl)amino)propan-2-ol | 4.5 mg, Yield 4.1% | C1N(CCC2=CC=CC=C12)CC(CNC1=NNC(=C1)C=1C=CC2=C(N(C=N2)C)C1)O | C23H26N6O
